US09162990B2
Step 3: Synthesis of 2-[4-(phenanthren-9-yl)phenyl]dibenzo[f,h]quinoxaline (abbreviation: DBqPPn)
The Rf values of the objective substance and 2-chlorodibenzo[f,h]quinoxaline were respectively 0.20 and 0.55, which were found by silica gel thin layer chromatography (TLC) (with a developing solvent of ethyl acetate and hexane in a ratio of 1:10).

reactant | 2-chlorodibenzo[f,h]quinoxaline | ClC1=NC2=C3C(=C4C(=C2N=C1)C=CC=C4)C=CC=C3 | C16H9ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
product | 2-[4-(phenanthren-9-yl)phenyl]dibenzo[f,h]quinoxaline | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C1=CC=C(C=C1)C1=NC2=C3C(=C4C(=C2N=C1)C=CC=C4)C=CC=C3 | C36H22N2
